### ISSUE TITLE
Port hendPos_tight to ZlibCorrect (4→3 sorrys)

### ISSUE THREAD

**Issue by kim-em** [kim-em/lean-zip#285]
**Session type**: feature (Phase 4+ — ZlibCorrect hendPos_tight)

## Current state

- **Phase**: Phase 4+ (4 sorries remaining)
- **Sorry count**: 4 (2 GzipCorrect: hcrc, hisize; 2 ZlibCorrect: hendPos_tight, hadler)
- **Key insight**: GzipCorrect already proves `hendPos_tight` (lines 1378-1411)
  using suffix invariance + `inflateRaw_endPos_le`. The exact same approach works
  for ZlibCorrect but hasn't been ported yet.

## Goal

Fill the `hendPos_tight` sorry in ZlibCorrect.lean by porting the proven gzip
approach. This is mechanical — no new infrastructure needed.

## Background

GzipCorrect proves `endPos + 8 ≤ compress.size` via:
1. Decompose `compress = header(10) ++ deflateRaw ++ trailer(8)` via `compress_eq`
2. Run `inflateRaw_complete` on `header ++ deflateRaw` (no trailer) → get `endPos'`
3. `inflateRaw_endPos_le` gives `endPos' ≤ (header ++ deflateRaw).size`
4. `inflateRaw_append_suffix` shows full compressed gives same `endPos'`
5. By injectivity: `endPos = endPos'`, so `endPos + 8 ≤ compress.size`

ZlibCorrect imports GzipCorrect, so `inflateRaw_endPos_le` and
`inflateRaw_append_suffix` are already available.

### 1. Extend `ZlibEncode.compress_eq` to include trailer size

Current signature (line 120):
```lean
theorem compress_eq (data : ByteArray) (level : UInt8) :
    ∃ (header trailer : ByteArray),
      header.size = 2 ∧
      compress data level = header ++ Deflate.deflateRaw data level ++ trailer
```

Add `trailer.size = 4` to the existential (matching gzip's pattern):
```lean
theorem compress_eq (data : ByteArray) (level : UInt8) :
    ∃ (header trailer : ByteArray),
      header.size = 2 ∧ trailer.size = 4 ∧
      compress data level = header ++ Deflate.deflateRaw data level ++ trailer
```

The proof needs minor adjustment — add the trailer size fact to each branch.

### 2. Fill `hendPos_tight` sorry (line 222)

Port the gzip approach from GzipCorrect lines 1381-1411, adapted for zlib's
constants (header=2, trailer=4):

```lean
-- 1. Decompose
obtain ⟨header, trailer, hhsz, htsz, hceq⟩ := ZlibEncode.compress_eq data level
-- 2. Spec decode on (header ++ deflated) at offset 2
have hspec_hd : Deflate.Spec.decode.go
    ((Deflate.Spec.bytesToBits (header ++ Deflate.deflateRaw data level)).drop (2 * 8))
    [] 10001 = some data.data.toList := by
  rw [show 2 * 8 = header.size * 8 from by omega]
  rw [bytesToBits_append, ← Deflate.Spec.bytesToBits_length header, List.drop_left]
  exact hspec_go
-- 3. inflateRaw_complete on (header ++ deflated)
obtain ⟨endPos', hinflRaw'⟩ :=
  inflateRaw_complete (header ++ Deflate.deflateRaw data level) 2 _
    data.data.toList hdata_le 10001 (by omega) hspec_hd
-- 4. endPos' ≤ (header ++ deflated).size
have hep_le : endPos' ≤ (header ++ Deflate.deflateRaw data level).size :=
  inflateRaw_endPos_le _ _ _ _ _ hinflRaw'
-- 5. Suffix invariance → same endPos' on full compressed
have hinflRaw'' : Inflate.inflateRaw ((header ++ Deflate.deflateRaw data level) ++ trailer)
    2 (1024 * 1024 * 1024) = .ok (⟨⟨data.data.toList⟩⟩, endPos') :=
  inflateRaw_append_suffix _ trailer 2 _ _ _ hinflRaw'
-- 6. Reassociate and identify endPos = endPos'
-- 7. Arithmetic: endPos + 4 ≤ compress.size
```

The existing `hspec_go` (line 188 in ZlibCorrect) and `hdata_le` (line 204)
provide the needed hypotheses. The `bytesToBits_append` helper (line 138)
is already defined in ZlibCorrect.

**Note**: The `hspec_compressed` lemma at line 193 already proves the spec
decode works on compressed data at offset 2. For the tight bound, we need
the variant that works on `header ++ deflated` (no trailer) — similar to
`hspec_hd` in GzipCorrect.

### 3. Update the `obtain` for `compress_eq` at line 210

After changing `compress_eq` to include `trailer.size`, the destructuring
at line 210 needs to accept the extra field:
```lean
obtain ⟨header, trailer, hhsz, _, hceq⟩ := ZlibEncode.compress_eq data level
```
(Discard `htsz` with `_` since it's not used there.)

## Files to modify

| File | Action |
|------|--------|
| `Zip/Spec/ZlibCorrect.lean` | Extend `compress_eq`, fill `hendPos_tight` sorry |

## Done criteria

- `hendPos_tight` sorry is filled (4→3 total sorrys)
- `lake build` passes with no errors
- `lake exe test` passes
- `grep -c sorry Zip/Spec/ZlibCorrect.lean` returns 1 (only `hadler` remains)

## Verification

```bash
lake build
lake exe test
grep -c sorry Zip/Spec/ZlibCorrect.lean   # should be 1
grep -rc sorry Zip/ | awk -F: '{s+=$2} END {print s}'  # should be 3
```

## Notes for the worker

- The proof is a direct port from GzipCorrect lines 1378-1411 — read that
  section carefully before starting
- `bytesToBits_append` is already private in ZlibCorrect — reuse it
- The key lemmas (`inflateRaw_endPos_le`, `inflateRaw_append_suffix`,
  `inflateRaw_complete`) are all imported from GzipCorrect
- This does NOT require endPos exactness — only the ≤ bound, which is
  already proved
- Difficulty: low (mechanical port of working proof pattern)

**Comment by kim-em** [comment]
Session: `4e5af828-cfbf-44d2-ad6d-e81d9081b92d` Branch: `agent/9f94d6fe`

**Comment by kim-em** [comment]
Claimed by session `cb0093f1-975c-434d-9894-99845152b83a` on branch `agent/9f94d6fe`
